US08445505B2
To a solution of tert-butyl-4-(4-aminonaphthalen-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate in 50 mL of MeOH was added 10 wt % Pd—C (100 mg). The reaction was degassed to remove air and stirred under 1 atm. H2 until the starting material is consumed. The Pd—C was removed by filtration and the resulting solution was concentrated in vacuo to afford tert-butyl-4-(4-aminonaphthalen-1-yl)piperidine-1-carboxylate.

reactant | tert-butyl-4-(4-aminonaphthalen-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CC=C(C2=CC=CC=C12)N | C20H24N2O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | tert-butyl-4-(4-aminonaphthalen-1-yl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C2=CC=CC=C12)N | C20H26N2O2
